### PR TITLE
Isabelle 2020 update

### PR DESCRIPTION
**Pull request by lsf37**
This PR updates the `l4v` repo to Isabelle2020 (to be used with `ts-2020` branch of the isabelle repo).

The main notable points are:
  - Isabelle has become a bit slower (records more informations for some thms)
  - every session now has to has its own directory. This means there is some file moving going on in the update. The requirement flushed out a few last pieces where we relied on implicit paths, which is good. It also made it necessary to introduce a few more directories like `refine/base`, because `BaseRefine` needs its own directory now. After grumbling a while, I actually kinda like it now.
  - session `ASpecDoc` is merged back into `ASpec` (because of the session directories). I've come up with a mechanism that doesn't rebuild every time we have a new git revision. It still means you have to run `make ASpec` to get all files the session depends on (i.e. just `isabelle build ASpec` without `make` first will complain).
  - theory merge order seems to have changed slightly, mostly affecting global declaration status of `if_cong` and `option.case_cong`. Instead of trying to replicate the previous global declarations, I've made local (per thm) fixes for all breakages, which hopefully will provide stability against the next such change and also records where we actually depended on these. The downside is that there are many `supply if_cong[cong]` sprinkled over the proofs now.
  - `AutoLevityBase` depended on an internal simplifier API that is no longer exported. AFAICT it was used to record/trace `cong` rules. Instead of patching Isabelle, I've commented out the `cong` rule tracing in `AutoLevityBase` 
  - `SimplExportAndRefine` takes even longer than before. Somebody should look at where the time is going at some point.
  - `Word_Lib` is in sync with `AFP-2020`
  - the Isabelle monad syntax changed slightly (flipped associativity to what we're using, IIRC) -- very few changes, because we only use that syntax occasionally.  
  - apart from a few word tweaks and the `if_cong` sprinkle, very few actual proof updates

### CODE REVIEW

**Comment by lsf37** [comment]
Looks like I still have a few small gitlint/link things to fix up, but the theory files are ready for review. For gitlint I'll have to rebase/force push, so maybe give me another hour before looking at it.

**Comment by lsf37** [comment]
Testboard running [here](https://bamboo.ts.data61.csiro.au/browse/L4V-TESTBOARD-631)

**Comment by lsf37** [comment]
Oh, the github CI checks will all fail, of course, because the manifest is still on Isabelle2019/`ts-2019`. We'll have to trust the testboard for this one.

File: proof/refine/ARM/Detype_R.thy [hunk 1]
```diff
@@ -3348,27 +3348,20 @@ lemma curDomain_commute:
...
-  )[1]
-  apply (drule_tac m = "ksPSpace s" in domI)
-  apply (erule in_emptyE)
-  apply (fastforce simp:objBits_simps)
-  done
+  by (auto simp: obj_at'_def is_aligned_mask lookupAround2_None1
+                    lookupAround2_char1 field_simps objBits_simps
+                    projectKO_opt_tcb projectKO_def return_def ps_clear_def
+           split: if_splits
+           dest!: pspace_no_overlap_disjoint')
```
Comment (mbrcknl) [inline proof/refine/ARM/Detype_R.thy:3364]: 💯

File: proof/refine/ARM_HYP/KHeap_R.thy [hunk 2]
```diff
@@ -713,9 +702,9 @@ lemma cte_wp_at_ctes_of:
    apply (simp add: field_simps)
   apply (clarsimp split: if_split_asm del: disjCI)
    apply (simp add: ps_clear_def3 field_simps)
-  apply (rule disjI2, rule exI[where x="(p - (p && ~~ mask 9))"])
+  apply (rule disjI2, rule exI[where x="p - (p && ~~ mask 9)"])
```
Comment (mbrcknl) [inline proof/refine/ARM_HYP/KHeap_R.thy:705]: I'm curious why this didn't need parens for `~~ (mask 9)`, when that seems to have been necessary in lots of other places?

File: spec/abstract/document/root.tex [hunk 3]
```diff
@@ -89,6 +88,36 @@
...
+\makeatletter\let\myfilehandle\@inputcheck\makeatother
+\openin\myfilehandle=\gitroot/spec/abstract/document/gitrev.tex\relax
+\begingroup\endlinechar-1
+  \global\read\myfilehandle to \gitrev
+\endgroup
+\closein\myfilehandle
+
+% end tex hacking
+
+
```
Comment (mbrcknl) [inline spec/abstract/document/root.tex:120]: Clever!

File: spec/Makefile [hunk 4]
```diff
@@ -23,26 +23,31 @@ report-regression:
...
 
-$(ASPEC_DOC_GITREV_FILE): .FORCE
+$(GIT_ROOT_FILE):
+	git rev-parse --show-toplevel > $@
+	perl -p -i -e "s/\n//" $@
+
+$(ASPEC_GITREV_FILE): .FORCE
 	git rev-parse --short=15 HEAD > $@ || echo unknown > $@
 	git diff --no-ext-diff --quiet || echo "*" >> $@
 	git diff --no-ext-diff --quiet --cached || echo "+" >> $@
```
Comment (mbrcknl) [inline spec/Makefile:53]: For anyone curious, see the comments @lsf37 added in `spec/abstract/document/root.tex`.

File: tools/asmrefine/testfiles/global_array_swap_gref.thy [hunk 5]
```diff
@@ -186,7 +186,14 @@ val debug_step_tac = ProveSimplToGraphGoals.debug_step_tac
...
 schematic_goal "PROP ?P"
   apply (tactic \<open>resolve_tac @{context} [init_thm] 1\<close>)
+  (* FIXME: this is debbuging code only, but the following execption still points at a problem
+            in the tactic code, not just to a broken proof.
+
+  exception THEORY raised (line 971 of "thm.ML"):
+  solve_constraints: bad theories for theorem
+
   apply (all \<open>(solves \<open>tactic \<open>HEADGOAL (debug_tac @{context})\<close>\<close>)?\<close>)
+  *)
```
Comment (mbrcknl) [inline tools/asmrefine/testfiles/global_array_swap_gref.thy:196]: - [ ] @mbrcknl make a Jira issue.

**Review by mbrcknl — APPROVED** [review]
Looks really good! It also looks like it was quite a lot of work, so many thanks for taking that on. Nevertheless, it was quite easy to review in full.

File: tools/asmrefine/testfiles/global_array_swap_gref.thy (hunk 5 above)
Comment (mbrcknl) [reply tools/asmrefine/testfiles/global_array_swap_gref.thy:196]: Issue noted at [VER-1369](https://sel4.atlassian.net/browse/VER-1369)

File: lib/Word_Lib/Aligned.thy [hunk 6]
```diff
@@ -786,7 +786,7 @@ proof -
 qed
 
 lemma is_aligned_neg_mask:
-  "m \<le> n \<Longrightarrow> is_aligned (x && ~~ mask n) m"
+  "m \<le> n \<Longrightarrow> is_aligned (x && ~~ (mask n)) m"
```
[the remark this answers is not in the document]
Comment (lsf37) [reply lib/Word_Lib/Aligned.thy:789]: I reverted the syntax change for the `~~` operator in the AFP (but not for `NOT` where the motivation for that change came from), so it's Ok again to write `~~mask n`, but at that stage Florian had already update all occurrences in the AFP, and I didn't touch those again.

File: lib/Word_Lib/Word_Lemmas.thy [hunk 7]
```diff
@@ -14,54 +14,6 @@ theory Word_Lemmas
...
-lemma word_less_induct:
-  "\<lbrakk> \<And>x::('a::len) word. (\<And>y. y < x \<Longrightarrow> P y) \<Longrightarrow> P x \<rbrakk> \<Longrightarrow> P a"
-  using word_less_wf  by induct blast
-
-instantiation word :: (len) wellorder
-begin
-instance by (intro_classes) (metis word_less_induct)
-end
-
-
```
[the remark this answers is not in the document]
Comment (lsf37) [reply lib/Word_Lib/Word_Lemmas.thy:64]: Yes, that's right.

File: proof/crefine/ARM_HYP/AutoCorresTest.thy [hunk 8]
```diff
@@ -1,636 +0,0 @@
...
- *
- * SPDX-License-Identifier: GPL-2.0-only
- *)
-
-(* Experimental AutoCorres proofs over CRefine: work in progress *)
-
-theory AutoCorresTest
-imports Refine_C
-begin
-
```
[the remark this answers is not in the document]
Comment (lsf37) [reply proof/crefine/ARM_HYP/AutoCorresTest.thy:12]: I should have a closer look at that.

File: lib/Word_Lib/Aligned.thy (hunk 6 above)
[the remark this answers is not in the document]
Comment (mbrcknl) [reply lib/Word_Lib/Aligned.thy:789]: Right, that makes sense, and answers a question I had elsewhere where I saw `~~mask 9`.

File: proof/refine/ARM_HYP/KHeap_R.thy (hunk 2 above)
Comment (lsf37) [reply proof/refine/ARM_HYP/KHeap_R.thy:705]: The other places with the many changes were synced from the AFP where that change was applied globally once, but I didn't undo it globally when I reverted the syntax change (the real change Florian wanted was for `NOT`, but doing the same for `~~` was a bit too much, the syntax precedence we have is analogous to other symbolic not-operators).

Comment (mbrcknl) [reply proof/refine/ARM_HYP/KHeap_R.thy:705]: See @lsf37's reply to my comment on `lib/Word_Lib/Aligned.thy`, which answers this.

File: tools/asmrefine/testfiles/global_array_swap_gref.thy (hunk 5 above)
Comment (lsf37) [reply tools/asmrefine/testfiles/global_array_swap_gref.thy:196]: I should have included the issue in the comment: there was already VER-1295, but that one doesn't link to the discussion here, so I've linked the two issues in Jira so we have both.

File: proof/tests.xml [hunk 9]
```diff
@@ -19,7 +19,7 @@
     <sequence depends="ASpec">
         <test name="AInvs" cpu-timeout="14400">make AInvs</test>
         <test name="BaseRefine">make BaseRefine</test>
-        <test name="Refine" cpu-timeout="14400">make Refine</test>
+        <test name="Refine" cpu-timeout="28800">make Refine</test>
```
Comment (mktnk3) [inline proof/tests.xml:22]: great 👍

File: proof/refine/ARM_HYP/KHeap_R.thy [hunk 10]
```diff
@@ -258,13 +256,6 @@ lemma updateObject_default_result:
   "(x, s'') \<in> fst (updateObject_default e ko p q n s) \<Longrightarrow> x = injectKO e"
   by (clarsimp simp add: updateObject_default_def in_monad)
 
-lemma ps_clear_upd':
-  "ksPSpace s y = Some v \<Longrightarrow>
-    ps_clear x n (s' \<lparr> ksPSpace := ksPSpace s(y \<mapsto> v')\<rparr>) = ps_clear x n s"
-  by (rule iffI | clarsimp elim!: ps_clear_domE | fastforce)+
-
-lemmas ps_clear_updE'[elim] = iffD2[OF ps_clear_upd', rotated]
-
```
Comment (mktnk3) [inline proof/refine/ARM_HYP/KHeap_R.thy:267]: This is interesting. So, in ARM_HYP we somehow have exactly the same thing defined as `ps_clear_upd`, and this is a duplicate, which you removed. I’d actually prefer not having ‘ at the end in other arches, but I guess this is not a high priority thing. Maybe one day :)

**Review by mktnk3 — APPROVED** [review]
This is a huge PR. Thanks for going through this, Gerwin. I looked through mostly to understand what changes there are. I don’t have any important comments, just a few minor things. I wonder how we will find the change in cong rule declaration while working on our proofs.

File: lib/test/WPTutorial.thy [hunk 11]
```diff
@@ -207,11 +207,23 @@ throwing the extra assumption away - supplying the wp rule hoare_drop_imps
 does this. There are standard sets of simp and wp rules which are frequently
 helpful to crunch, crunch_simps and crunch_wps, which contain the rules we
 added here.
+
+Finally, this proof needs to simply the predicates underneath an
```
[the remark this answers is not in the document]
Comment (lsf37) [reply lib/test/WPTutorial.thy:211]: Well spotted! [](url)

File: proof/refine/ARM_HYP/KHeap_R.thy (hunk 10 above)
Comment (lsf37) [reply proof/refine/ARM_HYP/KHeap_R.thy:267]: Yes, that should probably be a separate thing. I'm not sure any more why I noticed the duplication here, it's possible that Isabelle complained about something or gave a warning.

**Comment by lsf37** [comment]
(DCO and gitlint will be failing now until I have fixed up all review comments and rebased + squashed)

File: proof/crefine/ARM_HYP/AutoCorresTest.thy (hunk 8 above)
[the remark this answers is not in the document]
Comment (lsf37) [reply proof/crefine/ARM_HYP/AutoCorresTest.thy:12]: Ok, this was just overlooked. I think this happened because RISC-V got merged into the update somewhere in the middle after that theory had already been moved. Will be removed after the rebase.

**Comment by lsf37** [comment]
@corlewis @Xaphiosis Since we already have two reviews, it'd be Ok for you to skip. Let me know if you still want to take a closer look or if you're happy for me to go ahead and rebase+merge (after another testboard).

**Comment by lsf37** [comment]
Alright, fixed up and rebased. DCO etc should now come back green, as should this [testboard](https://bamboo.ts.data61.csiro.au/browse/L4V-TESTBOARD-638).
